US05948680
Triethylamine trihydrofluoride (3.91 mL, 24.0 mmol) was dissolved in dry THF and triethylamine (1.67 mL, 12 mmol, dry, kept over KOH). This mixture of triethylamine-2HF was then added to 5'-O-tert-butyldiphenylsilyl-2'-O-[N,N-dimethylaminooxyethyl]-5-methyluridine (1.40 g, 2.4 mmol) and stirred at room temperature for 24 hrs. Reaction was monitored by TLC (5% MeOH in CH2Cl2). Solvent was removed under vacuum and the residue placed on a flash column and eluted with 10% MeOH in CH2Cl2 to get 2'-O-(dimethylaminooxyethyl)-5-methyluridine (766 mg, 92.5%).

reactant | Triethylamine trihydrofluoride | 24.0 mmol, 3.91 mL | F.F.F.C(C)N(CC)CC
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 5'-O-tert-butyldiphenylsilyl-2'-O-[N,N-dimethylaminooxyethyl]-5-methyluridine | 2.4 mmol, 1.40 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCON(C)C)O | C30H41N3O7Si
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2'-O-(dimethylaminooxyethyl)-5-methyluridine | 766 mg, 92.5% | CN(OCCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C)C | C14H23N3O7
